US05250517
600 mg (2.4 mmol) of (RS)-4-(ethoxycarbonyl)-5-phenylvaleric acid in 20 ml of acetonitrile were treated with 1.06 g (2.4 mmol) of BOP, 310 mg of Hunig base and 0.21 ml of morpholine and stirred at room temperature for 1 hour and thereafter at 50° for 2 hours. After the usual working-up and chromatography on silica gel using a 10:1 mixture of methanol and chloroform as the eluting agent, there were obtained 400 mg (52%) of (RS)-α-[2-(morpholinocarbonyl)ethyl]hydrocinnamic acid ethyl ester which was used directly in the next step. MS: 319 (M+).

reactant | (RS)-4-(ethoxycarbonyl)-5-phenylvaleric acid | 2.4 mmol, 600 mg | C(C)OC(=O)C(CCC(=O)O)CC1=CC=CC=C1 | C14H18O4
reactant | BOP | 2.4 mmol, 1.06 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Hunig base | 310 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.21 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | (RS)-α-[2-(morpholinocarbonyl)ethyl]hydrocinnamic acid ethyl ester | 400 mg, 52% | C(C)OC(C(CC1=CC=CC=C1)CCC(=O)N1CCOCC1)=O | C18H25NO4
